US07153855B2
To a room temperature solution of 4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butan-1-ol (22 mg, 0.05 mmol) in dichloromethane (5 mL) was added 1-H-tetrazole (7 mg, 0.1 mmol) and dibenzyl N,N-diisopropylphosphoramidate (0.32 mL of a stock solution prepared from 0.2 mL of dibenzyl N,N-diisopropylphosphoramidate in 3.2 mL of dichloromethane). The resultant solution was stirred at room temperature for 1 hour and then cooled to 0° C. lodobenzene diacetate (16.5 mg, 0.05 mmol) was added and the mixture was stirred for 20 minutes. Saturated aqueous sodium thiosulfate and saturated aqueous sodium bicarbonate were added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (1:4 hexanes-ethyl acetate) provided dibenzyl 4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl phosphate (18 mg, 53%). 1H NMR (CDCl3): δ 8.03 (d, 1 H), 7.81 (d, 1 H), 7.61 (d, 2 H), 7.38–7.32 (m, 11 H), 7.01 (d, 2 H), 6.36 (d, 1 H), 6.06 (m, 1 H), 5.98 (d, 1 H), 5.13–5.01 (m, 5 H), 4.40 (m, 1 H), 4.05 (m, 2 H), 3.91 (s, 3 H), 3.37 (m, 2 H), 2.16–1.54 (m, 12 H); MS m/z 733 (M+1).

reactant | 4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butan-1-ol | 0.05 mmol, 22 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCO)C2=CC=C(C=C2)OC | C27H32N6O2
reactant | 1-H-tetrazole | 0.1 mmol, 7 mg | N1N=NN=C1 | CH2N4
reactant | dibenzyl N,N-diisopropylphosphoramidate | C(C)(C)N(P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)C(C)C | C20H28NO3P
reactant | dibenzyl N,N-diisopropylphosphoramidate | 0.2 mL | C(C)(C)N(P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)C(C)C | C20H28NO3P
reactant | diacetate | 0.05 mmol, 16.5 mg | CC(=O)CC(=O)O | C4H6O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.2 mL | ClCCl | CH2Cl2
product | dibenzyl 4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl phosphate | 18 mg, 53% | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCCCCNC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C41H45N6O5P
